US08053461B2
Oxindole (7.56 mmol) was dissolved in butyric anhydride (11.39 mmol), and the resulting mixture was heated and stirred at 120° C. for 24 hours. After cooling, the reaction mixture was poured into ice water, and the resulting precipitate was collected by filtration, washed with water and dried, whereby 1-butyrylindolin-2-one was obtained.

reactant | Oxindole | 7.56 mmol | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | butyric anhydride | 11.39 mmol | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 1-butyrylindolin-2-one | C(CCC)(=O)N1C(CC2=CC=CC=C12)=O | C12H13NO2
